US04021438
A solution of 2.25 g. (0.02 m) of ethyl isocyanoacetate and 2.08 g. (0.02 m) 0-ethyl thioacetate in 10 ml. absolute ethanol is added dropwise to a suspension of 0.25 g. sodium cyanide in 10 ml. absolute ethanol. After 5 minutes a mild exotherm occurs and the temperature rises to from 22° to 32° C. remaining there for about 1/2 hour. The reaction mixture is then heated at 50° C. for 8 hours at which time the smell of isonitrile is gone. The reaction mixture is then evaporated to dryness in vacuo leaving a dark oil which is extracted several times with hot hexane. The hexane is evaporated affording 2.8 g. (82%) of a tan solid which is the desired 4-ethoxycarbonyl-5-methylthiazole. This solid is recrystallized from ether/hexane affording a pure product with a m.p. 89°-90° C. Following the foregoing procedures employing 0-ethyl thiobutyrate in place of 0-ethyl thioacetate, there is obtained 4-ethoxycarbonyl-5-(n-propyl) thiazole with a boiling point of 85°-87° C. at 0.15 mm of Hg.

reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | isonitrile | N#[C-]
reactant | 4-ethoxycarbonyl-5-methylthiazole | C(C)OC(=O)C=1N=CSC1C | C7H9NO2S
solvent | ethanol | C(C)O | C2H6O
product | 4-ethoxycarbonyl-5-(n-propyl) thiazole | C(C)OC(=O)C=1N=CSC1CCC | C9H13NO2S
